US08404836B2
7.9 g (9.1 mmol) of manganese oxide is added to a solution of 4.2 g (9.1 mmol) of 4-[3-(2-butoxy-4-hydroxymethyl-phenyl)-propyl]-2-methoxy-phenyl 1-butane sulfonate in 300 ml of dichloromethane. The reaction mixture is stirred for 15 hours at room temperature. The reaction mixture is filtered on Celite, and rinsed with dichloromethane. The solvents are evaporated. 3.95 g (94%) of 4-[3-(2-butoxy-4-formyl-phenyl)-propyl]-2-methoxy-phenyl 1-butane sulfonate is obtained in the form of a yellow oil.

reactant | 4-[3-(2-butoxy-4-hydroxymethyl-phenyl)-propyl]-2-methoxy-phenyl 1-butane sulfonate | 9.1 mmol, 4.2 g | C(CCC)S(=O)(=O)OC1=C(C=C(C=C1)CCCC1=C(C=C(C=C1)CO)OCCCC)OC | C25H36O6S
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
catalyst | manganese oxide | 9.1 mmol, 7.9 g | [O-2].[Mn+2]
product | 4-[3-(2-butoxy-4-formyl-phenyl)-propyl]-2-methoxy-phenyl 1-butane sulfonate | 3.95 g, 94% | C(CCC)S(=O)(=O)OC1=C(C=C(C=C1)CCCC1=C(C=C(C=C1)C=O)OCCCC)OC | C25H34O6S
